US04152440
1-Benzyl-2-(5-tetrazolyl)-imidazole
Obtained by reacting 9.3 g (0.05 mol) of 1-benzyl-2-formylimidazole (see Liebigs Ann. Chem. 718 (1968) pp. 249-259) with 8.0 g (0.15 mol) of ammonium chloride and 9.8 g (0.15 mol) of sodium azide in 50 ml of dimethylformamide at 120°-130° C. The isolation of the 1-benzyl-2-cyanoimidazole intermediate (obtained by Schmidt-rearrangement) may be omitted, since this compound adds excess hydrazoic acid to the tetrazole in situ. After 20 hours, it is cooled, and 500 ml of water are added, the precipitate formed filtered off and recrystallised several times from dimethylformamide. M.p. 274°-275° C.

reactant | 1-benzyl-2-formylimidazole | 0.05 mol, 9.3 g | C(C1=CC=CC=C1)N1C(=NC=C1)C=O | C11H10N2O
reactant | ammonium chloride | 0.15 mol, 8.0 g | [Cl-].[NH4+]
reactant | sodium azide | 0.15 mol, 9.8 g | [N-]=[N+]=[N-].[Na+]
reactant | 1-benzyl-2-cyanoimidazole | C(C1=CC=CC=C1)N1C(=NC=C1)C#N | C11H9N3
reactant | hydrazoic acid | N=[N+]=[N-] | HN3
reactant | tetrazole | N1N=NN=C1 | CH2N4
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | water | 500 ml | O | H2O
product | 1-Benzyl-2-(5-tetrazolyl)-imidazole | C(C1=CC=CC=C1)N1C(=NC=C1)C1=NN=NN1 | C11H10N6
